US08791107B2
5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[2,3-c]pyridin-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 75 mg, 0.190 mmol), 1-acetyl-1H-pyrrolo[2,3-c]pyridin-4-ylboronic acid (77 mg, 0.380 mmol) and PdCl2(dppf) (6.95 mg, 9.50 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.08-3.19 (m, 1H), 3.21 (m, 2H), 3.23-3.34 (m, 2H), 3.47-3.56 (m, 1H), 3.57-3.67 (m, 1H), 3.70-3.81 (m, 1H), 3.93-4.01 (m, 2H), 4.06-4.15 (m, 1H), 4.49-4.58 (m, 1H), 4.64-4.80 (m, 2H), 7.55-7.68 (m, 3H), 7.69-7.75 (m, 1H), 7.88-7.98 (m, 2H), 8.28-8.37 (m, 1H), 8.86-8.96 (m, 1H), 9.05-9.15 (m, 1H), 12.85-12.97 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H24N6O3S, 477.16. found 477.5.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.190 mmol, 75 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 1-acetyl-1H-pyrrolo[2,3-c]pyridin-4-ylboronic acid | 0.380 mmol, 77 mg | C(C)(=O)N1C=CC=2C1=CN=CC2B(O)O | C9H9BN2O3
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 9.50 μmol, 6.95 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(methylsulfonyl)benzyl)-2-(1H-pyrrolo[2,3-c]pyridin-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | CS(=O)(=O)C1=CC=C(CN2C=3C=NC(=NC3N3C(C2)COCC3)C3=C2C(=CN=C3)NC=C2)C=C1 | C24H24N6O3S
